US07615651B2
Preparation of Intermediate (4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)carbamic acid tert-butyl ester (I-5c)
(4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)-amine (I-5b: 1.78 g, 6.5 mmol) was dissolved in ethyl acetate (20 ml) and treated with an aqueous saturated sodium bicarbonate solution (40 ml) and di-tert-butyl dicarbonate (2.13 g, 9.73 mmol). After 2 hours, the reaction mixture was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with water, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified using chromatography on silica gel eluting with 5% ethyl acetate in hexanes to yield 2.45 g of the title product (I-5c).

reactant | (4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)-amine | 6.5 mmol, 1.78 g | BrC1=C(C=C(CNCCC(C)C)C=C1)F | C12H17BrFN
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 9.73 mmol, 2.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)carbamic acid tert-butyl ester | 2.45 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)Br)F)=O | C17H25BrFNO2
